US07405210B2
Preparation 13: 3-(3-Nitropyridin-4-yl)-2-oxopropionic acid ethyl ester
To a solution of potassium ethoxide (3.1 g, 36.2 mmol) in diethyl ether (70 mL) and ethanol (10 mL) under an argon atmosphere was added diethyl oxalate (4.9 mL, 36.2 mmol) and the reaction stirred at rt for 30 min. A solution of 4-methyl-3-nitropyridine (5.0 g, 36.2 mmol) in diethyl ether (20 mL) was added resulting in the immediate formation of a dark red precipitate. The reaction mixture was stirred at rt for 72 h, then cooled to 0° C. and filtered. The solid was dissolved in water (500 mL) acidified to pH 4 with acetic acid and the precipitate collected and dried to give the title compound as a red solid. δH (d6 DMSO): 1.27 (3H, t), 4.25 (2H, q), 6.74 (1H, s), 8.34 (1H, d), 8.43 (1H, d), 8.98 (1H, s); m/z (ES+)=239 [M+H]+.

reactant | potassium ethoxide | 36.2 mmol, 3.1 g | [O-]CC.[K+]
reactant | diethyl oxalate | 36.2 mmol, 4.9 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 4-methyl-3-nitropyridine | 36.2 mmol, 5.0 g | CC1=C(C=NC=C1)[N+](=O)[O-] | C6H6N2O2
solvent | diethyl ether | 70 mL | C(C)OCC | C4H10O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 3-(3-Nitropyridin-4-yl)-2-oxopropionic acid ethyl ester | C(C)OC(C(CC1=C(C=NC=C1)[N+](=O)[O-])=O)=O | C10H10N2O5
